datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=C[C:61]2=[C:62](C=C1)[N-:12][CH:11]=[N:10]2.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[N:12][C:62]3=[C:61]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[C:20]1([H:10])CC[C:22]([O-:23])=[CH:21]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)C[C@@H]1CCC[NH:10]1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CN(C)C[C@@H]1CCC[NH+:10]1[CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CCC[C:20](C)=[O:21].C[N:62](C)[C:61](=[NH:10])[N:72](C)C>>CCC[C:20](C)([NH+:10]=[C:61]([N:62](C)C)[N:72](C)C)[O-:21] 10=20;20,21=21"
"C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][CH2:20][C:31]45C6[Co-3:32]4(C#[O+])(C#[O+])(C#[O+])[Co-3:42]65(C#[O+])(C#[O+])C#[O+])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]1>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:103]=[CH:102]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C[C:11](C)=[CH2:10].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[C+:11](C)[CH2:10][CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1 10,11=10,20;20,21=21,22;22,23=23"
"CN1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([CH:10]1CCCC[C:11]1=[N+:12]1CCN(C)CC1)[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2>>O=C(C1=CC=CC=C1)[CH:10]([CH:20]([C:31]1=[CH:32][C:33]2=[C:34](OCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](OCC2)[CH:45]=[CH:46]1)[N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[CH:10]=[N+:11]([O-:12])[O-:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C)[N+:11](=[O:12])[O-:62])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC1(C)C[C:11](=[O:12])[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1 10,11=10,20;12=11,12"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]2=[C:61](C)[NH:62][C:63](C)=[CH:64]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1.[S-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>[S:10]([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[Si:63]1(C)C[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
